US06855711B1
Synthesis of 5-(4-(2-hydroxyethyl)piperazin-1-ylmethyl)-8-hydroxyquinoline (15)
4-(2-Hydroxyethyl)-piperazine (7.2 ml; 58.7 mmol) was added to a suspension of 5-chloromethyl-8-hydroxyquinoline (5.413 g; 23.5 mmol) in CHCl3 (80 ml) at 0° C. The mixture was stirred overnight at room temperature. The reaction mixture was subsequently washed with a saturated NaHCO3 solution and brine, then dried with Na2SO4 and evaporated to dryness. Crystallization of the residue from a mixture of CHCl3-Hex gave 4.05 g (60%) of title product. M.p. 123-4° C. The mother liquor was evaporated and the residue was crystallized to yield 1.5 g of title product. Overall yield: 5.55 g (82%). A highly pure product was obtained by soxleth extraction using hexane as the extractant. TLC (CHCl3 MeOH NH3=8:2:0.5). Rf=0.4.

reactant | 4-(2-Hydroxyethyl)-piperazine | 58.7 mmol, 7.2 ml | OCCN1CCNCC1 | C6H14N2O
reactant | 5-chloromethyl-8-hydroxyquinoline | 23.5 mmol, 5.413 g | ClCC1=C2C=CC=NC2=C(C=C1)O | C10H8ClNO
solvent | CHCl3 | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-(2-hydroxyethyl)piperazin-1-ylmethyl)-8-hydroxyquinoline | 4.05 g, 60% | OCCN1CCN(CC1)CC1=C2C=CC=NC2=C(C=C1)O | C16H21N3O2
